* source PROIECTFINAL
R_R         0 N18852 R_R 120k TC=0,0 
.model        R_R RES R=1 DEV=1% TC1=0 TC2=0
R_R72         N194781 N25131 R_R72 0.2k TC=0,0 
.model        R_R72 RES R=1 DEV=2% TC1=0 TC2=0
R_Rs         0 SENZ  {r} TC=0,0 
R_R4         0 N19310 R_R4 110k TC=0,0 
.model        R_R4 RES R=1 DEV=1% TC1=0 TC2=0
R_R8         VREF 0 R_R8 1k TC=0,0 
.model        R_R8 RES R=1 DEV=2% TC1=0 TC2=0
R_Rd1         N25874 COMP R_Rd1 0.3k TC=0,0 
.model        R_Rd1 RES R=1 DEV=5% TC1=0 TC2=0
V_V3         VCC 0 12V
R_R6         N18960 COMP R_R6 1.2k TC=0,0 
.model        R_R6 RES R=1 DEV=5% TC1=0 TC2=0
R_R71         N25131 VCC R_R71 1k TC=0,0 
.model        R_R71 RES R=1 DEV=2% TC1=0 TC2=0
R_R2         N18868 DOM R_R2 110k TC=0,0 
.model        R_R2 RES R=1 DEV=1% TC1=0 TC2=0
R_R10         DOM N18960 R_R10 1k TC=0,0 
.model        R_R10 RES R=1 DEV=5% TC1=0 TC2=0
D_D4         N19118 VCC D1N4447 
R_Rr         N19118 VCC  390 TC=0,0 
X_U3A         N18960 0 VCC -VCC COMP TL082
R_Rb         COMP N19346 R_Rb 18k TC=0,0 
.model        R_Rb RES R=1 DEV=5% TC1=0 TC2=0
Q_Q12         N19118 N19346 0 BC546B 
R_R73         N194781 VREF R_R73 0.2k TC=0,0 
.model        R_R73 RES R=1 DEV=2% TC1=0 TC2=0
X_U2B         N19310 N18868 VCC -VCC DOM TL082
R_R3         N19040 N19310 R_R3 11k TC=0,0 
.model        R_R3 RES R=1 DEV=1% TC1=0 TC2=0
V_V2         -VCC 0 -12V
R_R1         VREF N18868 R_R1 11k TC=0,0 
.model        R_R1 RES R=1 DEV=1% TC1=0 TC2=0
D_D5         N25878 0 redled 
X_U5A         SENZ N19040 VCC -VCC N19040 TL082
Q_Q13         SENZ N18852 VCC BC556A 
Q_Q14         N18852 N18852 VCC BC556A 
R_Rd2         N25878 N25874 R_Rd2 0.11k TC=0,0 
.model        R_Rd2 RES R=1 DEV=5% TC1=0 TC2=0
.PARAM  r=50k
